US07834063B2
4-[{2-[(6-Chloro-3-pyridinyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 6-chloro-3-pyridinol, using dry DME as reaction solvent: MS (APCI) m/z 424 (M+1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 6-chloro-3-pyridinol | ClC1=CC=C(C=N1)O | C5H4ClNO
solvent | DME | COCCOC | C4H10O2
product | 4-[{2-[(6-Chloro-3-pyridinyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | ClC1=CC=C(C=N1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C17H12ClF6N3O
